**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Power Inductor (High Voltage)
* Matchcode:              WE-PD HV
* Library Type:           Pspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          7/12/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt PD_HV_1060_7687714470_47u 1 2
Rp 1 2 45600
Cp 1 2 5.8p
Rs 1 N3 0.13
L1 N3 2 42.1u
.ends PD_HV_1060_7687714470_47u
*******
.subckt PD_HV_1060_7687714221_220u 1 2
Rp 1 2 147680
Cp 1 2 6.339p
Rs 1 N3 0.57
L1 N3 2 197.8u
.ends PD_HV_1060_7687714221_220u
*******
.subckt PD_HV_1060_7687714471_470u 1 2
Rp 1 2 154450
Cp 1 2 6.75p
Rs 1 N3 1.25
L1 N3 2 446.95u
.ends PD_HV_1060_7687714471_470u
*******
.subckt PD_HV_1060_7687714681_680u 1 2
Rp 1 2 231060
Cp 1 2 7.75p
Rs 1 N3 1.9
L1 N3 2 609.3u
.ends PD_HV_1060_7687714681_680u
*******
.subckt PD_HV_1060_7687714102_1000u 1 2
Rp 1 2 277000
Cp 1 2 7.5p
Rs 1 N3 2.7
L1 N3 2 919.1u
.ends PD_HV_1060_7687714102_1000u
*******
.subckt PD_HV_1060_7687714152_1500u 1 2
Rp 1 2 308000
Cp 1 2 7.75p
Rs 1 N3 3.8
L1 N3 2 1361u
.ends PD_HV_1060_7687714152_1500u
*******
.subckt PD_HV_1060_7687714222_2200u 1 2
Rp 1 2 325360
Cp 1 2 7.58p
Rs 1 N3 5.5
L1 N3 2 2093u
.ends PD_HV_1060_7687714222_2200u
*******
.subckt PD_HV_1210_7687709221_220u 1 2
Rp 1 2 114020
Cp 1 2 17.38p
Rs 1 N3 0.3
L1 N3 2 191.43u
.ends PD_HV_1210_7687709221_220u
*******
.subckt PD_HV_1210_7687709471_470u 1 2
Rp 1 2 123970
Cp 1 2 15.069p
Rs 1 N3 0.68
L1 N3 2 422.83u
.ends PD_HV_1210_7687709471_470u
*******
.subckt PD_HV_1210_7687709681_680u 1 2
Rp 1 2 150160
Cp 1 2 17.89p
Rs 1 N3 0.95
L1 N3 2 621.5u
.ends PD_HV_1210_7687709681_680u
*******
.subckt PD_HV_1210_7687709821_820u 1 2
Rp 1 2 119322
Cp 1 2 15.551p
Rs 1 N3 1.05
L1 N3 2 758.68u
.ends PD_HV_1210_7687709821_820u
*******
.subckt PD_HV_1210_7687709102_1000u 1 2
Rp 1 2 178860
Cp 1 2 15.1p
Rs 1 N3 1.2
L1 N3 2 855.18u
.ends PD_HV_1210_7687709102_1000u
*******
.subckt PD_HV_1210_7687709152_1500u 1 2
Rp 1 2 249710
Cp 1 2 17.127p
Rs 1 N3 1.9
L1 N3 2 1344u
.ends PD_HV_1210_7687709152_1500u
*******
.subckt PD_HV_1210_7687709222_2200u 1 2
Rp 1 2 296540
Cp 1 2 18.035p
Rs 1 N3 3.1
L1 N3 2 1904u
.ends PD_HV_1210_7687709222_2200u
*******
.subckt PD_HV_1210_7687709332_3300u 1 2
Rp 1 2 363070
Cp 1 2 18.37p
Rs 1 N3 4.4
L1 N3 2 2855u
.ends PD_HV_1210_7687709332_3300u
*******
.subckt PD_HV_1210_7687709472_4700u 1 2
Rp 1 2 300000
Cp 1 2 20p
Rs 1 N3 6.5
L1 N3 2 4500u
.ends PD_HV_1210_7687709472_4700u
*******
.subckt PD_HV_1210_7687709682_6800u 1 2
Rp 1 2 298000
Cp 1 2 20.2p
Rs 1 N3 8
L1 N3 2 6100u
.ends PD_HV_1210_7687709682_6800u
*******
.subckt PD_HV_7332_7687789471_470u 1 2
Rp 1 2 239000
Cp 1 2 2.78p
Rs 1 N3 2.9
L1 N3 2 413u
.ends PD_HV_7332_7687789471_470u
*******
.subckt PD_HV_7332_7687789681_680u 1 2
Rp 1 2 340000
Cp 1 2 3.4p
Rs 1 N3 4.7
L1 N3 2 662u
.ends PD_HV_7332_7687789681_680u
*******
.subckt PD_HV_7332_7687789821_820u 1 2
Rp 1 2 319000
Cp 1 2 2.7p
Rs 1 N3 6.7
L1 N3 2 772.5u
.ends PD_HV_7332_7687789821_820u
*******
.subckt PD_HV_7332_7687789102_1000u 1 2
Rp 1 2 327000
Cp 1 2 2.7p
Rs 1 N3 7.6
L1 N3 2 920u
.ends PD_HV_7332_7687789102_1000u
*******
.subckt PD_HV_7345_7687779470_47u 1 2
Rp 1 2 34000
Cp 1 2 4.5p
Rs 1 N3 0.24
L1 N3 2 43.7u
.ends PD_HV_7345_7687779470_47u
*******
.subckt PD_HV_7345_7687779221_220u 1 2
Rp 1 2 169750
Cp 1 2 4.6p
Rs 1 N3 1.1
L1 N3 2 201.5u
.ends PD_HV_7345_7687779221_220u
*******
.subckt PD_HV_7345_7687779471_470u 1 2
Rp 1 2 195230
Cp 1 2 4.525p
Rs 1 N3 2.7
L1 N3 2 428.7u
.ends PD_HV_7345_7687779471_470u
*******
.subckt PD_HV_7345_7687779561_560u 1 2
Rp 1 2 237260
Cp 1 2 4.808p
Rs 1 N3 3
L1 N3 2 534.3u
.ends PD_HV_7345_7687779561_560u
*******
.subckt PD_HV_7345_7687779681_680u 1 2
Rp 1 2 255110
Cp 1 2 5.117p
Rs 1 N3 3.4
L1 N3 2 623.135u
.ends PD_HV_7345_7687779681_680u
*******
.subckt PD_HV_7345_7687779102_1000u 1 2
Rp 1 2 375650
Cp 1 2 5.1531p
Rs 1 N3 5.1
L1 N3 2 859.17u
.ends PD_HV_7345_7687779102_1000u
*******
